US07772244B2
1-(Diethoxyphosphoryl)-2-methoxy-2-oxoethyl benzoate
Diazomethane was generated in 3 fire-polished erlenmeyer flasks using ⅓ of each N-methyl-N′-nitro-N-nitrosoguanidine (17.1 g 116. mmol), 5 M sodium hydroxide (200 mL), and diethyl ether (450 mL) at 0° C. by adding the guanidine in small portions with swirling to the other two. After addition was complete, the mixture was allowed to stand at 0° C. for 10 min with occasional swirling. The ethereal was transferred in portions to a suspension of 2-(benzoyloxy)-2-(diethoxyphosphoryl)acetic acid (21.0 g, 66.4 mmol) in dichloromethane (ca. 20 mL) until the solid had all dissolved and a yellow color persisted. The reaction was allowed to rest at 0° C. for 15 min, before bubbling nitrogen through the solution to remove most of the unreacted diazomethane (reaction went almost colorless). The reaction was concentrated to give the 22.0 g (quant.) as a faint yellow oil which was used without purification. 1H-NMR (CDCl3, 500 MHz) δ 1.37 (m, 6H), 3.85 (s, 3H), 4.28 (m, 4H), 5.71 (d, J=16.8, 1H), 7.47 (m, 2H), 7.61 (m, 1H), 8.11 (m, 2H).

reactant | Diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-methyl-N′-nitro-N-nitrosoguanidine | 17.1 g | CN(C(=N)N[N+](=O)[O-])N=O | C2H5N5O3
reactant | sodium hydroxide | 5 M, 200 mL | [OH-].[Na+]
reactant | guanidine | NC(=N)N | CH5N3
reactant | 2-(benzoyloxy)-2-(diethoxyphosphoryl)acetic acid | 66.4 mmol, 21.0 g | C(C1=CC=CC=C1)(=O)OC(C(=O)O)P(=O)(OCC)OCC | C13H17O7P
solvent | dichloromethane | ca. 20 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 450 mL | C(C)OCC | C4H10O
product | 1-(Diethoxyphosphoryl)-2-methoxy-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OC(C(=O)OC)P(=O)(OCC)OCC | C14H19O7P
